US06642229B2
Cyclopropyl methyl ketone was converted to 1-cyclopropyl-3,3-diethoxypropan-1-one as described in Example 4 and condensed with 2-aminoimidazole hemisulfate as described in Example 1 to give 7-cyclopropylimidazo[1,2-a]pyrimidine as an orange solid: δH (400 MHz, CDCl3) 1.06-1.11 (2H, m), 1.26-1.31 (2H, m), 2.03-2.08 (1H, m), 6.74 (1H, d, J 7), 7.40 (1H, d, J 1), 7.65 (1H, d, J 1), 8.24 (1H, d, J 7).

reactant | Cyclopropyl methyl ketone | CC(=O)C1CC1 | C5H8O
reactant | 1-cyclopropyl-3,3-diethoxypropan-1-one | C1(CC1)C(CC(OCC)OCC)=O | C10H18O3
reactant | 2-aminoimidazole hemisulfate | S(=O)(=O)(O)O.NC=1NC=CN1.NC=1NC=CN1
product | 7-cyclopropylimidazo[1,2-a]pyrimidine | C1(CC1)C1=NC=2N(C=C1)C=CN2 | C9H9N3
